US07723331B2
e) 2-(4-Methoxyphenyl)-6-({6-[(2S)-piperidin-2-ylmethoxy]pyridin-2-yl}methyl)thieno[2,3-d]pyridazin-7(6H)-one
tert-Butyl (2S)-2-{[(6-{[2-(4-methoxyphenyl)-7-oxothieno[2,3-d]pyridazin-6(7H)-yl]methyl}pyridin-2-yl)oxy]methyl}piperidine-1-carboxylate (354 mg, 0.629 mmol) was dissolved in DCM (7 ml) and TFA (1 ml) was added. The reaction was stirred at rt. for 30 min and the solvent evaporated in vacuo. To the resultant oil was added DCM (100 ml) and 5% Na2CO3 (aq) (100 ml), the phases separated and the aqueous phase extracted with DCM (100 ml). The combined organics were dried through a phase separator and evaporated in vacuo yielding the title compound as a light yellow solid. Yield: 290 mg (100%). MS (ESI+) 463.23 (M+1H+)

reactant | tert-Butyl (2S)-2-{[(6-{[2-(4-methoxyphenyl)-7-oxothieno[2,3-d]pyridazin-6(7H)-yl]methyl}pyridin-2-yl)oxy]methyl}piperidine-1-carboxylate | 0.629 mmol, 354 mg | COC1=CC=C(C=C1)C1=CC2=C(C(N(N=C2)CC2=CC=CC(=N2)OC[C@H]2N(CCCC2)C(=O)OC(C)(C)C)=O)S1 | C30H34N4O5S
reactant | TFA | 1 ml | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | DCM | 7 ml | C(Cl)Cl | CH2Cl2
product | 2-(4-Methoxyphenyl)-6-({6-[(2S)-piperidin-2-ylmethoxy]pyridin-2-yl}methyl)thieno[2,3-d]pyridazin-7(6H)-one | COC1=CC=C(C=C1)C1=CC2=C(C(N(N=C2)CC2=NC(=CC=C2)OC[C@H]2NCCCC2)=O)S1 | C25H26N4O3S
